US04593029
A mixture of 16.7 g (100 mmol) of 5-hydroxy-2-nitrobenzaldehyde, 32 g (110 mmol) of 6-chlorohexyl-p-toluenesulfonate and 17 g of potassium carbonate in dry 250 ml of DMF was heated to 100° C. under dry nitrogen for 3 h. The reaction was cooled, filtered and evaporated to a dark oil. The crude product was dissolved in 500 ml of ethyl acetate, and the organic layer was washed twice with 300 ml of saturated sodium carbonate, and twice with 300 ml of brine, dried, filtered and evaporated. Filtration through silica gel gave 25.5 g (89.2 mmol, 89%) of 5-(6-chlorohexyl)oxy-2-nitrobenzaldehyde as a green syrup unstable to distillation.

reactant | 5-hydroxy-2-nitrobenzaldehyde | 100 mmol, 16.7 g | OC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H5NO4
reactant | 6-chlorohexyl-p-toluenesulfonate | 110 mmol, 32 g | ClCCCCCCOS(=O)(=O)C1=CC=C(C=C1)C | C13H19ClO3S
reactant | potassium carbonate | 17 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 5-(6-chlorohexyl)oxy-2-nitrobenzaldehyde | 89.2 mmol, 25.5 g, 89% | ClCCCCCCOC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C13H16ClNO4
